* pipeline2.0 netlist
* circuit: ic01

VVCC_9 N003 0 DC 9
Ccapacitor4_1 N001 0 1u
Ccapacitor4_2 N002 0 1u
Ccapacitor4_3 N003 0 1u
Xintegrated_circuit11_1 N001 N002 N001 N003 N005 N004 N003 0 TLC555_6
Dled12_1 N006 0 LED_RED
Rresistor22_1 N004 N001 1k
Rresistor22_2 N003 N004 1k
Rresistor22_3 N005 N006 1k

.model LED_RED D
.include "07_external_models.lib"

.save all
.tran 5us 100ms

.control
set wr_singlescale
set wr_vecnames
save all @dled12_1[id]
run
wrdata 08_tran.csv time v(N001) v(N002) v(N003) v(N004) v(N005) v(N006) @dled12_1[id]
.endc
.end
